US05847159
Preparation of 1-[(1,2,3,4-tetrahydro-6,7-dimethyl-1-oxo-2-naphthalenyl)-acetyl]pyrrolidine
To a solution of 1,2,3,4-tetrahydro-6,7-dimethyl-1-oxo-2-naphthalene-acetic acid (8.0 g), pyrrolidine (3.8 g) and benzotriazol-1-yloxy-tris(dimethyl-amino) phosphonium hexafluorophosphate (BOP Reagent,16.7 g) in dichloro-methane (80 ml) was added dropwise triethylamine (3.8 g) at 25° C., and the mixture was stirred for three hours. The mixture was concentrated under reduced pressure to remove the solvent, and to the residue were added water and toluene, and the insoluble materials were removed by filtration. The toluene layer was collected, washed successively with 1N aqueous sodium hydroxide solution, water and a saturated aqueous sodium chloride solution, an dried over anhydrous sodium sulfate. The resultant was concentrated under reduced pressure to remove the solvent, and the residue was purified by silica gel column chromatography (eluent; toluene-ethyl acetate=10:1), and the fractions containing the desired compound were combined, and concentrated under reduced pressure to give the desired compound (9.5 g) as an oily product.

reactant | 1,2,3,4-tetrahydro-6,7-dimethyl-1-oxo-2-naphthalene-acetic acid | 8.0 g | CC=1C=C2CCC(C(C2=CC1C)=O)CC(=O)O | C14H16O3
reactant | pyrrolidine | 3.8 g | N1CCCC1 | C4H9N
reactant | benzotriazol-1-yloxy-tris(dimethyl-amino) phosphonium hexafluorophosphate | 16.7 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 3.8 g | C(C)N(CC)CC | C6H15N
solvent | dichloro-methane | 80 ml | ClCCl | CH2Cl2
product | 1-[(1,2,3,4-tetrahydro-6,7-dimethyl-1-oxo-2-naphthalenyl)-acetyl]pyrrolidine | 9.5 g | CC=1C=C2CCC(C(C2=CC1C)=O)CC(=O)N1CCCC1 | C18H23NO2
